US07557105B2
4-[(4-Methyl-3-oxo-1-piperazinyl)methyl]benzoic acid
Utilising the procedure described for 4-[(3-oxo-1-piperazinyl)methyl]benzoic acid, but employing 1-methylpiperazin-2-one in place of piperazin-2-one afforded the title compound as cream crystalline solid.

reactant | 4-[(3-oxo-1-piperazinyl)methyl]benzoic acid | O=C1CN(CCN1)CC1=CC=C(C(=O)O)C=C1 | C12H14N2O3
reactant | 1-methylpiperazin-2-one | CN1C(CNCC1)=O | C5H10N2O
product | 4-[(4-Methyl-3-oxo-1-piperazinyl)methyl]benzoic acid | CN1C(CN(CC1)CC1=CC=C(C(=O)O)C=C1)=O | C13H16N2O3
